US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrochloride
5.3 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 3.2 g of ground 1,3-dipropylthio urea were heated in 45 ml of methanol for 5 minutes to 50° C and stirred for another 30 minutes at room temperature. After pouring the reaction mixture into 120 ml of diethyl ether the end product was obtained as a visquous mass which crystallized under mild heating rapidly with ether. Colorless solid body: melting point: 175° C (decomposition).

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.3 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-dipropylthio urea | C(CC)NC(=S)NCCC | C7H16N2S
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | methanol | 45 ml | CO | CH4O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCCC)CCC)O)S(N)(=O)=O | InChI=1S/C15H22ClN3O3S2.ClH/c1-3-7-18-14-19(8-4-2)15(20,10-23-14)11-5-6-12(16)13(9-11)24(17,21)22;/h5-6,9,20H,3-4,7-8,10H2,1-2H3,(H2,17,21,22);1H
